US09428483B2
(1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid (A-1-2, 1.43 g) and 1-chloroethyl isobutyrate (1.80 g) were treated in the same manner as in Example A-1 (3) to give (1S,2S,3S,5R,6S)-3′-allyl 6-(1-(isobutyryloxy)ethyl) 3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-3′,6-dicarboxylate (A-8-1, 307 mg) as a pale yellow oil.

reactant | (1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid | 1.43 g | C(C=C)OC(=O)N1COC([C@]12[C@@H]1[C@H]([C@@H]1C[C@@H]2F)C(=O)O)=O | C13H14FNO6
reactant | 1-chloroethyl isobutyrate | 1.80 g | C(C(C)C)(=O)OC(C)Cl | C6H11ClO2
product | (1S,2S,3S,5R,6S)-3′-allyl 6-(1-(isobutyryloxy)ethyl) 3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-3′,6-dicarboxylate | 307 mg | F[C@H]1C[C@H]2[C@@H](C2[C@@]12N(COC2=O)C(=O)OCC=C)C(=O)O[C@@H](C)OC(C(C)C)=O | C19H24FNO8
